US05683705
N-(2-Hydroxyoctanoyl)cysteamine
To a 1 L 1-neck round bottom reaction flask equipped with a teflon-coated stirrer bar and a reflux condenser was added 600 mL of diethylene glycol monomethyl ether followed by 18.0 g of N,N'-Bis(2-hydroxyoctanoyl)cystamine obtained from Example 4, 60.0 g of NaBH4 and 11.0 g of AlCl3. The resulting mixture was allowed to stir at room temperature overnight. The reaction flask was placed in an ice bath and to the reaction flask was gradually added, with vigorous stirring, 6M HCl until the vigorous evolution of gases ceased. Following the addition of the 6M HCl, the pH of the resulting aqueous phase was <3. The resulting mixture was extracted with three 700 mL portions of ethyl acetate. The ethyl acetate washings were combined, back-extracted with three 700 mL portions of brine and three 700 mL portions of water, dried over Na2SO4, and concentrated under reduced pressure (40° C. @ 100mm Hg). The resulting semi-solid residue was triturated with hexane, and the resulting white solid was collected by vacuum filtration. The white solid was washed with 25 mL of cold hexane and air dried. The hexane mother liquor mixture was chilled to -78° C. and filtered to provide additional solid which was added to the purified white solid, above, to afford the title compound in 68% combined yield: mp.=83°-84° C.; IR ν(S--H) @2574 cm- 1 (weak); TLC Rf =0.6 (5% MeOH/CH2C12), (Rf of N,N'-Bis(2-hydroxyoctanoyl)cystamine=0.5). The title compound, a microcrystalline white solid, was readily soluble in diethyl ether, ethyl acetate, ethanol and methanol, but was insoluble in either water or cold hexane.

reactant | N,N'-Bis(2-hydroxyoctanoyl)cystamine | OC(C(=O)NCCSSCCNC(C(CCCCCC)O)=O)CCCCCC | C20H40N2O4S2
solvent | MeOH | CO | CH4O
product | N-(2-Hydroxyoctanoyl)cysteamine | OC(C(=O)NCCS)CCCCCC | C10H21NO2S
